US07056932B2
To a stirred suspension of 10% Pd/C (214 mg) at r.t. in ethanol (4 ml) under an argon atmosphere was added of (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(3-nitro-phenyl)-pyrazol-1-yl]-acetamide (2.1 g). The mixture was stirred at r.t. under a hydrogen atmosphere for 18 h. The catalyst was filtered over a celite pad and the cake was washed with ethanol. The filtrate was concentrated. The crude product was purified by chromatography (silica gel, gradient cyclohexane=>EtOAc) to give (RS)-2-[3-(3-amino-phenyl)-pyrazol-1-yl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide (1.0 g) as off-white solid. MS 376.5 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(3-nitro-phenyl)-pyrazol-1-yl]-acetamide | 2.1 g | C(#N)C1=CC=C(CNC(C(N2N=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-])OCC)=O)C=C1 | C21H19N5O4
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd/C | 214 mg | [Pd] | Pd
product | (RS)-2-[3-(3-amino-phenyl)-pyrazol-1-yl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide | 1.0 g | NC=1C=C(C=CC1)C1=NN(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OCC | C21H21N5O2
